data/oMe_Silver.jsonl
{"reaction_id": "NR-116_1-C(C)(C)C_2-C(F)(F)F_3-CC_4-CC","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(C(C)(C)C)C(C(F)(F)F)C(=O)OCC","N#[N+]CC"],"products_smiles": ["C(=O)(OCC)C(=N[NH]CC)C(F)(F)F"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OCC)C(F)(F)F)C(C)(C)C","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OCC)(C(=O)C(C)(C)C)(N=NCC)C(F)(F)F","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OCC)(C(O)([O-])(C(C)(C)C))(N=NCC)C(F)(F)F","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OCC)C(=N[N-]CC)C(F)(F)F","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OCC)C(=N[NH]CC)C(F)(F)F","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
{"reaction_id": "NR-001_1-c1cc(C#N)ccc1_2-CN(C)c1ccccc1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)C=O","C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)C=O"],"products_smiles": ["C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)C(O)C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)C([O-])C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)C(O)C(c1cc(C#N)ccc1)(CN(C)c1ccccc1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NR-115_10-c1ccc(C(F)(F)F)cc1_1-C(F)(F)F_2-c1ccc(OC)cc1_3-C_4-C(C)(C)C_5-c1occc1_6-C1CCCCC1_7-C_8-C(C)C_9-C","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(C)C(O/C(=C(/C1CCCCC1)C)/O[Si](C(C)C)(C)(c1ccc(C(F)(F)F)cc1))(c1occc1)C(C)(C)C)(C(F)(F)F)c1ccc(OC)cc1"],"products_smiles": ["C(=C(C)C(C(C(=O)O[Si](C(C)C)(C)(c1ccc(C(F)(F)F)cc1))(C)C1CCCCC1)(c1occc1)C(C)(C)C)(C(F)(F)F)c1ccc(OC)cc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(C)C(C(C(=O)O[Si](C(C)C)(C)(c1ccc(C(F)(F)F)cc1))(C)C1CCCCC1)(c1occc1)C(C)(C)C)(C(F)(F)F)c1ccc(OC)cc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
